US07112582B2
To the mixture [21.2 g (0.11 mol)] of 2,3-dihydropyrazolo[5,1-b]thiazol-6-carboxylic acid ethyl ester and 2,3-dihydropyrazolo[5,1-b]thiazol-7-carboxylic acid ethyl ester in 540 ml of dry tetrahydrofuran was added LiAlH4 (4.05 g, 0.11 mol) under a nitrogen atmosphere at 0° C., and then stirred for 2.5 hours at room temperature. The mixture was quenched with water (15 ml) and the precipitate was filtered through a pad of Celite. The pad was washed with water (100 ml) and tetrahydrofuran (500 ml). The filtrate was concentrated under reduced pressure, and then water (150 ml) was added. The aqueous layer was extracted with dichloromethane (15×250 ml). The combined organic layers were dried (MgSO4) and filtered. The filtrate was concentrated under reduced pressure and a mixture of (2,3-dihydropyrazolo[5,1-b]thiazol-6-yl) methanol and (2,3-dihydropyrazolo[5,1-b]thiazol-7-yl) methanol was obtained as pale brown oil (15.5 g).

reactant | 2,3-dihydropyrazolo[5,1-b]thiazol-6-carboxylic acid ethyl ester | 0.11 mol, 21.2 g | C(C)OC(=O)C1=NN2C(SCC2)=C1 | C8H10N2O2S
reactant | 2,3-dihydropyrazolo[5,1-b]thiazol-7-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NN2C1SCC2 | C8H10N2O2S
reactant | LiAlH4 | 0.11 mol, 4.05 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | tetrahydrofuran | 540 ml | O1CCCC1 | C4H8O
product | (2,3-dihydropyrazolo[5,1-b]thiazol-7-yl) methanol | S1C=2N(CC1)N=CC2CO | C6H8N2OS
